US09085555B2
C. (2R,5S)-2-Azidomethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester
To a solution of (2R,5S)-2-methanesulfonyloxymethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (589 mg, 1.14 mmol) in DMF (4.5 mL) was added a solution of sodium azide (371 mg, 5.7 mmol) in water (0.5 mL) and the mixture was stirred at 80° C. under nitrogen atmosphere overnight. EtOAc and a water were added, the layers were separated and the aqueous one back-extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc gradient 100:0 to 6:5) to give the desired compound. MS (LC-MS): 464 [MH−Boc]+; tR (HPLC conditions b) 5.73 min.

reactant | (2R,5S)-2-methanesulfonyloxymethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | 1.14 mmol, 589 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](CC[C@H]1C(NC1=CC(=CC=C1)OC(F)(F)F)=O)COS(=O)(=O)C | C22H23F3N2O7S
reactant | sodium azide | 5.7 mmol, 371 mg | [N-]=[N+]=[N-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | DMF | 4.5 mL | CN(C)C=O | C3H7NO
solvent | water | 0.5 mL | O | H2O
product | (2R,5S)-2-Azidomethyl-5-(3-trifluoromethoxy-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@H](CC[C@H]1C(NC1=CC(=CC=C1)OC(F)(F)F)=O)CN=[N+]=[N-] | C21H20F3N5O4
